US06900201B2
To a solution of 5-(5-Nitro-pyridin-2-yloxy)-1H-indazole (1.0 g, 3.9 mmol) in 15 mL of DMSO is added copper (II) acetate (0.71 g, 3.9 mmol), powdered 4A molecular sieves (0.2 g), 3-pyridylboronic acid (4.3 mmol) and triethylamine (2.7 mL, 20 mmol). The resulting mixture is stirred under an oxygen atmosphere for 3 days. After filtering through a plug of Celite and silica gel, the mixture is concentrated in vacuo, adsorbed to silica gel, and purified by column chromatography eluting with 0-20% ethyl acetate-hexanes, affording 5-(5-Nitro-pyridin-2-yloxy)-1-pyridin-3-yl-1H-indazole.

reactant | 5-(5-Nitro-pyridin-2-yloxy)-1H-indazole | 3.9 mmol, 1.0 g | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2C=NNC2=CC1 | C12H8N4O3
reactant | 3-pyridylboronic acid | 4.3 mmol | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | triethylamine | 20 mmol, 2.7 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
catalyst | copper (II) acetate | 3.9 mmol, 0.71 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-(5-Nitro-pyridin-2-yloxy)-1-pyridin-3-yl-1H-indazole | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2C=NN(C2=CC1)C=1C=NC=CC1 | C17H11N5O3
